US07981903B2
A solution of 1-(bromoacetyl)-4,4-dimethyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline (1.0 g, 2.8 mmol) in tetrahydrofuran (35 mL) was treated with potassium carbonate (1.3 g, 9.4 mmol) and dimethyl amine (10 mL, 20 mmol, 2 M in THF, Aldrich). The mixture was heated in sealed tube at 55° C. for 1h, cooled, diluted with water, and extracted with ethyl acetate. The organic layer was separated, dried over magnesium sulfate, filtered, and concentrated to give {2-[4,4-dimethyl-6-(methyloxy)-7-nitro-3,4-dihydro-1(2H)-quinolinyl]-2-oxoethyl}dimethylamine which was taken directly to the next step. ESIMS (M+H)+=322.

reactant | 1-(bromoacetyl)-4,4-dimethyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline | 2.8 mmol, 1.0 g | BrCC(=O)N1CCC(C2=CC(=C(C=C12)[N+](=O)[O-])OC)(C)C | C14H17BrN2O4
reactant | potassium carbonate | 9.4 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl amine | 20 mmol, 2 M, 10 mL | CNC | C2H7N
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | {2-[4,4-dimethyl-6-(methyloxy)-7-nitro-3,4-dihydro-1(2H)-quinolinyl]-2-oxoethyl}dimethylamine | CC1(CCN(C2=CC(=C(C=C12)OC)[N+](=O)[O-])C(CN(C)C)=O)C | C16H23N3O4
